### PR TITLE
The new interval library

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR generalizes the results in interval.v using order structures.
- `x <= y ?< if c` (`lersif`) has been replaced with `x < y ?<= if c'` (`lteif`) where `c'` is negation of `c`. This change makes statements of several lemmas (e.g., `lteif_orb`) easily comprehensible.
- The first constructor `BOpen_if` of `itv_bound` has been replaced with `BClose_if` where the first argument is inverted. Now `pred_of_itv` is defined by using `lteif` instead of `lersif`.
- Intervals of `T : porderType` form a `porderType` where the ordering relation is the subset relation. If `T` is a `latticeType`, intervals also form a `latticeType` where the join and meet are intersection and convex hull respectively. They are distributive if `T` is an `orderType`.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [x] added corresponding documentation in the headers

##### PR overlays

- math-comp/real-closed#28

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by pi8027** [comment]
@CohenCyril This PR is ready for review.

**Comment by CohenCyril** [comment]
Looks great! I will try to review it next week!

File: mathcomp/algebra/interval.v [hunk 1]
```diff
@@ -310,327 +215,1423 @@ Definition eqitv (x y : interval T) : bool :=
...
+    [|| (y \in Interval a (BOpen x)), (y == x)
+      | (y \in Interval (BOpen x) b)].
+Proof.
+move=> xab y; rewrite (itv_splitU true xab y); congr (_ || _).
+rewrite (@itv_splitU x false _ _ _ y); first by rewrite itv_xx inE.
+by move: xab; rewrite boundl_in_itv itv_boundlr => /andP [].
+Qed.
+
+Lemma itv_total_meet3E i1 i2 i3 :
+  i1 `&` i2 `&` i3 \in [:: i1 `&` i2; i1 `&` i3; i2 `&` i3].
```
Comment (pi8027) [inline mathcomp/algebra/interval.v:762]: I think this result can be generalized by introducing the notion of the dimension of a lattice. I would say a lattice `L` is n-dimensional if "∀x_0 ... x_n ∈ L. ∃i ∈ {0, ..., n}. ⋀_(0 ≦ j ≦ n) x_j = ⋀_(0 ≦ j ≦ n ∧ j ≠ i) x_j" holds. As a result, a totally ordered set is a 1-dimensional lattice, and the product of n- and m-dimensional lattices forms an (n + m)-dimensional lattice. The problem is that this wording is confusing with lattice points.

Comment (CohenCyril) [reply mathcomp/algebra/interval.v:762]: I guess this can be left for later.

Comment (pi8027) [reply mathcomp/algebra/interval.v:762]: I agree. Let me open another issue after merging this PR.

File: mathcomp/algebra/interval.v [hunk 2]
```diff
@@ -310,327 +215,1423 @@ Definition eqitv (x y : interval T) : bool :=
...
-Proof. by case=> i []. Qed.
-
-Definition itv_intersectioni1 : right_id `]-oo, +oo[ itv_intersection.
-Proof. by case=> [[lb lr |] [ub ur |]]. Qed.
+Definition itv_boundl_porderMixin :=
+  @LePOrderMixin
+    (itv_boundl_eqType T) (fun b => le_boundl^~ b) _ (fun _ _ => erefl)
+    le_boundl_refl le_boundl_converse_anti le_boundl_converse_trans.
+Canonical itv_boundl_porderType :=
+  POrderType (itv_boundl_display disp) (itv_boundl T) itv_boundl_porderMixin.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:436]: By doing this you make `le_boundl` the canonical relation between bounds (whereas `le_boundr` is "the other one").

I think it is desirable that there is a canonical one, but I think that as such we are in big trouble.

Moreover, after doing some filters in `analysis`, and sign tables in `real-closed`, I have come to think that it might be desirable to switch the `BClose_if` representation to a `BLeft_if` (with two infinities `-oo = BLInfty_if false` and `+oo = BLInfty_if true`) representation, so as to deduplicate comparison, join, etc ...

```coq
Definition pred_of_itv i : pred T :=
  [pred x | let: Interval l u := i in
      match l with
        | BLeft_if b lb => lb < x ?<= if b
        | BLInfty_if b => ~~ b
      end &&
      match u with
        | BLeft_if b ub => x < ub ?<= if ~~ b
        | BLInfty_if b => ~~b
      end].
```

Comment (CohenCyril) [reply mathcomp/algebra/interval.v:436]: It could even become 
```coq
Definition pred_of_itv i : pred T :=
  [pred x | let: Interval l u := i in (l <= BLeft_if x false) && (BLeft_if x true <= u)].
```
(where `Inductive bound T := BLeft_if of bool & T | BLInfty_if of bool` is canonically ordered, and could subsequently be generalized as an extension of `ereal`)

Comment (pi8027) [reply mathcomp/algebra/interval.v:436]: I agree with this. It also gives us the canonical `tb(Distr)LatticeType` instance of lattices. Let me do that.

Comment (pi8027) [reply mathcomp/algebra/interval.v:436]: I think it is better to redefine `pred_of_itv` as follows:
```coq
Definition pred_of_itv i : pred T := [pred x | `[x, x] <= i].
```

Comment (pi8027) [reply mathcomp/algebra/interval.v]: Done.

File: mathcomp/algebra/interval.v [hunk 3]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Lemma itv_boundlr bl br x :
+  (x \in Interval bl br) = (bl <= BLeft x) && (BRight x <= br).
+Proof. by []. Qed.
+
+Lemma subitvP i1 i2 : i1 <= i2 -> {subset i1 <= i2}.
+Proof.
+by case: i1 i2 => [[b2 l2|[]][b2' u2|[]]][[b1 l1|[]][b1' u1|[]]]
+          /andP [] /= ha hb x /andP [ha' hb']; apply/andP; split => //;
+  (apply/lteif_imply: (lteif_trans ha ha'); case: b1 b2 ha ha' => [][]) ||
+  (apply/lteif_imply: (lteif_trans hb' hb); case: b1' b2' hb hb' => [][]).
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:345]:
```suggestion
by [apply/lteif_imply: (lteif_trans ha ha'); case: b1 b2 ha ha' => [][] |
    apply/lteif_imply: (lteif_trans hb' hb); case: b1' b2' hb hb' => [][]].
```
?

File: mathcomp/algebra/interval.v [hunk 4]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Definition bound_in_itv := (boundl_in_itv, boundr_in_itv).
+
+(* we compute a set of rewrite rules associated to an interval *)
+Definition itv_rewrite i x : Type :=
+  let: Interval l u := i in
+    (match l with
+       | BLeft a => (a <= x) * (x < a = false)
+       | BRight a => (a <= x) * (a < x) * (x <= a = false) * (x < a = false)
+       | -oo => forall x : T, x == x
+       | +oo => forall x : T, x == x (* ? *)
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:417]: Actually, I'm not sure what is the best "default rule" to write here.
Maybe for the first one it is `true = true` and the second one `forall b, keyed b = false`? (since `x \in Interval +oo y = false` anyway).

File: mathcomp/algebra/interval.v [hunk 5]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Qed.
+
+Lemma itv_gte ba xa bb xb :
+  xb < xa ?<= if ba || ~~ bb ->
+  Interval (BRight_if ba xa) (BRight_if bb xb) =i pred0.
+Proof.
+move=> ? y; apply/negP; rewrite inE /= itv_boundlr.
+case/andP => lexay /(lteif_trans lexay).
+by rewrite implybF lteifNF //= negb_and negbK.
+Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:394]: I guess a generalization to `itv_gte` could be added, e.g. perhaps
```coq
Lemma itv_ge b1 b2 : ~~ (b1 < b2) -> Interval b1 b2 =i pred0.
```
(if I got it right).
This looks like a consequence of `lt_in_itv : x \in Interval b1 b2 -> b1 < b2`

File: mathcomp/algebra/interval.v [hunk 6]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+  (at level 0, b at level 9 , format "`] '-oo' ,  b [") : ring_scope.
+Notation "`[ a , '+oo' [" := (Interval (BLeft a) +oo)
+  (at level 0, a at level 9 , format "`[ a ,  '+oo' [") : ring_scope.
+Notation "`] a , '+oo' [" := (Interval (BRight a) +oo)
+  (at level 0, a at level 9 , format "`] a ,  '+oo' [") : ring_scope.
+Notation "`] -oo , '+oo' [" := (Interval -oo +oo)
+  (at level 0, format "`] -oo ,  '+oo' [") : ring_scope.
+
+Fact itv_bound_display (disp : unit) : unit. Proof. exact. Qed.
+Fact interval_display (disp : unit) : unit. Proof. exact. Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:186]: I guess top and bottom should be denoted to `+oo%bound` and `-oo%bound` in this display.

File: mathcomp/algebra/interval.v [hunk 7]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+         (a <= b) * (a < b) * (b <= a = false) * (b < a = false)
+         * (a \in `[a, b]) * (a \in `[a, b[) * (b \in `[a, b]) * (b \in `]a, b])
+       | _, _ => forall x : T, x == x
+     end)%type.
+
+Lemma itvP : forall x i, x \in i -> itv_rewrite i x.
+Proof.
+move=> x [[[]a|[]][[]b|[]]] /andP [] ha hb; do !split;
+  rewrite ?bound_in_itv //=; do 1?[apply/negbTE; rewrite (le_gtF, lt_geF)];
+  try by [| apply: ltW | move: (lteif_trans ha hb) => //=; exact: ltW].
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:444]:
```suggestion
  by [|apply: ltW | move: (lteif_trans ha hb) => //=; exact: ltW].
```
should work

File: mathcomp/algebra/interval.v [hunk 8]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Qed.
+
+Arguments itvP [x i].
+
+Lemma lteif_in_itv ba bb xa xb x :
+  x \in Interval (BRight_if ba xa) (BRight_if bb xb) ->
+  xa < xb ?<= if ~~ ba && bb.
+Proof. by case: ba bb => [][] /itvP /= ->. Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:452]: Maybe add the general version `lt_in_itv : x \in Interval b1 b2 -> b1 < b2` too.

File: mathcomp/algebra/interval.v [hunk 9]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+
+Canonical interval_distrLatticeType :=
+  DistrLatticeType (interval T) (DistrLatticeMixin itv_meetUl).
+Canonical interval_bDistrLatticeType := [bDistrLatticeType of interval T].
+Canonical interval_tbDistrLatticeType := [tbDistrLatticeType of interval T].
+
+Lemma itv_splitU (xc : T) bc a b : xc \in Interval a b ->
+  forall y, y \in Interval a b =
+    (y \in Interval a (BRight_if bc xc)) ||
+    (y \in Interval (BRight_if bc xc) b).
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:629]: Splitting lemmas could now take a bound as argument instead of separate arguments of type `T` and `bool`. Would it more be convenient?
```suggestion
Lemma itv_splitU c a b : a <= c <= b ->
  forall y, y \in Interval a b = (y \in Interval a c) || (y \in Interval c b).
```

File: mathcomp/algebra/interval.v [hunk 10]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+- by case: leP b13r (le_trans b12r b23r).
+- by case: leP b13r (le_trans b12r b23r).
+- by case: leP b31l (lt_trans b21l b32l).
+- by case: leP b31l (lt_trans b21l b32l).
+- by case: leP b13r (le_trans b12r b23r).
+Qed.
+
+Lemma itv_total_meetsE (S : Type) (s : seq S) (f : S -> interval T) :
+  \meet_(ix <- s) f ix \in
+  `]-oo, +oo[ :: [seq f ix `&` f ix' | ix <- s, ix' <- s].
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:689]: This statement is not informative enough: the trivial case should be isolated from the meaningful cases by assuming the sequence is non empty. The better alternative would be to add a predicate `P` and check that `has P s` when stating the lemma:
```suggestion
Lemma itv_total_meets_condE (I : Type) (s : seq I) (P : pred I) (F : I -> interval T) (sP : filter P s):
  has P s -> \meet_(i <- s | P i) F i \in [seq F i `&` F j | i <- sP, j <- sP].
```

with consequence:
```coq
Lemma itv_total_meetsE (I : Type) (s : seq I) (F : I -> interval T) :
  (size s > 0)%N -> \meet_(i <- s) F i \in [seq F i `&` F j | i <- s, j <- s].
```

Maybe a more general formulation would go through a function `itv_meet_seq : forall (I : Type), (I -> interval T) -> seq I -> seq I`, such that `size (itv_meet_seq s) <= 2`, `subseq (itv_meet_seq s) s` and `\meet_(i <- s) F i = \meet_(i <- itv_meet_seq s) F i`... I guess it depends on your usecases... can you point them out?

File: mathcomp/algebra/interval.v [hunk 11]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Lemma lteif_ndivr_mulr : z < 0 -> y / z < x ?<= if b = (x * z < y ?<= if b).
+Proof. by case: b => ? /=; rewrite lter_ndivr_mulr. Qed.
+
+Lemma lteif_ndivl_mull : z < 0 -> x < z^-1 * y ?<= if b = (y < z * x ?<= if b).
+Proof. by case: b => ? /=; rewrite lter_ndivl_mull. Qed.
+
+Lemma lteif_ndivr_mull : z < 0 -> z^-1 * y < x ?<= if b = (z * x < y ?<= if b).
+Proof. by case: b => ? /=; rewrite lter_ndivr_mull. Qed.
+
+End LteifField.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:862]: move to `ssrnum.v`?

File: mathcomp/algebra/interval.v [hunk 12]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+
+Lemma mem0_itvcc_xNx x : (0 \in `[-x, x]) = (0 <= x).
+Proof. by rewrite itv_boundlr [in LHS]/<=%O /= oppr_le0 andbb. Qed.
+
+Lemma mem0_itvoo_xNx x : 0 \in `](-x), x[ = (0 < x).
+Proof. by rewrite itv_boundlr [in LHS]/<=%O /= oppr_lt0 andbb. Qed.
+
+Lemma itv_splitI a b x :
+  x \in Interval a b = (x \in Interval a +oo) && (x \in Interval -oo b).
+Proof. by rewrite !itv_boundlr ?andbT. Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:877]: Move to the line just after the proof of `itv_boundlr`?

**Review by CohenCyril — CHANGES_REQUESTED** [review]
:+1:  This is even better indeed!! I still have a few request for changes, questions about some design choices and possible rephrasing here and there.

File: mathcomp/algebra/interval.v [hunk 13]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+
+End LteifTotal.
+
+Variant itv_bound (T : Type) : Type :=
+  BRight_if of bool & T | BRInfty_if of bool.
+Notation BLeft := (BRight_if false).
+Notation BRight := (BRight_if true).
+Notation "'-oo'" := (BRInfty_if _ false) (at level 0) : order_scope.
+Notation "'+oo'" := (BRInfty_if _ true) (at level 0) : order_scope.
+Variant interval (T : Type) := Interval of itv_bound T & itv_bound T.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/interval.v:144]: Since the canonical ordering of `bool` is `false < true`, I thought `right if` is natural. But I have no objection.

File: mathcomp/algebra/interval.v [hunk 14]
```diff
@@ -4,225 +4,1090 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Proof. by case: b; rewrite /= (le_maxr, lt_maxr). Qed.
+
+Lemma lteif_maxl :
+  (Order.max y z < x ?<= if b) = (y < x ?<= if b) && (z < x ?<= if b).
+Proof. by case: b; rewrite /= (le_maxl, lt_maxl). Qed.
+
+Lemma lteifN : (x < y ?<= if ~~ b) = ~~ (y < x ?<= if b).
+Proof. by rewrite comparable_lteifN ?comparableT. Qed.
+
+End LteifTotal.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/algebra/interval.v:136]: I would rather move them to `order.v`.

File: mathcomp/algebra/interval.v (hunk 6 above)
Comment (pi8027) [reply mathcomp/algebra/interval.v:186]: We need `tbPorderType` to do that.

Comment (pi8027) [reply mathcomp/algebra/interval.v:186]: It is doable but we cannot use them for interval bounds of a `porderType`, since we do not have `tbPorderType`.

File: mathcomp/algebra/interval.v (hunk 10 above)
Comment (pi8027) [reply mathcomp/algebra/interval.v:689]: I will remove these lemmas for now and put them back as another PR to address your comment. My use cases are quantifier elimination algorithms such as Fourier–Motzkin. Inequations and their conjunction can be seen as intervals (such as `]-oo, a]` and `[b, +oo[`) and their intersection respectively.

File: mathcomp/algebra/interval.v [hunk 15]
```diff
@@ -4,225 +4,810 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Proof. by rewrite itv_boundlr bound_lexx. Qed.
+
+Lemma boundr_in_itv c x b :
+  x \in Interval b (BSide c x) = ~~ c && (b <= BLeft x).
+Proof. by rewrite itv_boundlr bound_lexx implybF andbC. Qed.
+
+Definition bound_in_itv := (boundl_in_itv, boundr_in_itv).
+
+Lemma lt_in_itv bl br x : x \in Interval bl br -> bl < br.
+Proof. by case/andP; apply/le_lt_trans. Qed.
```
Comment (pi8027) [inline mathcomp/algebra/interval.v:289]: Here. Should we rename this one to `ltb_in_itv` or `lt_bound_in_itv`? @CohenCyril

File: mathcomp/algebra/interval.v (hunk 5 above)
Comment (pi8027) [reply mathcomp/algebra/interval.v]: Yes! And I'm not sure if `itv_gte` is still useful.

File: mathcomp/algebra/interval.v (hunk 4 above)
Comment (pi8027) [reply mathcomp/algebra/interval.v:333]: The first case is the same as the present one, but it's fine to replace it with `true = true`. Also, I don't get what `keyed` do you mean here.

File: mathcomp/algebra/interval.v (hunk 15 above)
Comment (CohenCyril) [reply mathcomp/algebra/interval.v:289]: Suffix `b` is reserved for booleans. 
However, I am not completely sure about having `ltr_in_itv` anymore since it can be the composition of `lt_in_itv` and (missing) lemma `~~ C -> x < y ?<= if C -> x < y`

File: mathcomp/algebra/interval.v [hunk 16]
```diff
@@ -4,225 +4,810 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+  x \in Interval (BSide cl yl) (BSide cr yr) -> yl < yr ?<= if cl && ~~ cr.
+Proof. exact: lt_in_itv. Qed.
+
+Lemma ltr_in_itv cl cr yl yr x :
+  ~~ cl || cr -> x \in Interval (BSide cl yl) (BSide cr yr) -> yl < yr.
+Proof. by case: cl cr => [][] // _ /lt_in_itv. Qed.
+
+Lemma ler_in_itv cl cr yl yr x :
+ x \in Interval (BSide cl yl) (BSide cr yr) -> yl <= yr.
+Proof. by move/lt_in_itv/lteifW. Qed.
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/algebra/interval.v:301]: cf my remark above

File: mathcomp/algebra/interval.v (hunk 4 above)
Comment (CohenCyril) [reply mathcomp/algebra/interval.v:333]: Sorry, I meant `unkeyed`, cf https://github.com/coq/coq/blob/master/theories/ssr/ssreflect.v#L347-L357

Comment (CohenCyril) [reply mathcomp/algebra/interval.v:333]: Anyway, I'm not 100% convinced that it is desirable... it would be nice is the goal is of the form `is_true _`, but otherwise it will just be weird, and anyway seeing `` `]+oo, x[`` in the context will obviously look wrong to anyone...

File: mathcomp/algebra/interval.v [hunk 17]
```diff
@@ -4,225 +4,810 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Lemma itv_splitU c a b : a <= c <= b ->
+  forall y, y \in Interval a b = (y \in Interval a c) || (y \in Interval c b).
+Proof.
+case/andP => leac lecb y; rewrite !itv_boundlr -!bound_ltLb !ltNge.
+case: (leP a) (leP b) (leP c) => leay [] leby [] lecy //=.
+- by case: leP lecy (le_trans lecb leby).
+- by case: leP leay (le_trans leac lecy).
+Qed.
+
+Lemma itv_splitU2 x a b : x \in Interval a b ->
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:535]: I think a bettername would be `itv_splitUeq`

File: mathcomp/algebra/interval.v [hunk 18]
```diff
@@ -4,225 +4,810 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+  forall y, y \in Interval a b =
+    [|| y \in Interval a (BLeft x), y == x | y \in Interval (BRight x) b].
+Proof.
+case/andP => ax xb y.
+have/itv_splitU ->: a <= BLeft x <= b by rewrite ax le_eqVlt bound_ltLb xb orbT.
+have/itv_splitU ->: BLeft x <= BRight x <= b by rewrite bound_lexx xb.
+by rewrite itv_xx.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:542]: Didn't `rewrite (@itv_split (BLeft x)) ... // (@itv_split (BRight x) _ b) ... //` lead to a shorter proof?

File: mathcomp/algebra/interval.v [hunk 19]
```diff
@@ -4,225 +4,810 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Proof. exact: oppr_itv. Qed.
+
+Lemma oppr_itvco (a b x : R) : (-x \in `[a, b[) = (x \in `](-b), (-a)]).
+Proof. exact: oppr_itv. Qed.
+
+Lemma oppr_itvoc (a b x : R) : (-x \in `]a, b]) = (x \in `[(-b), (-a)[).
+Proof. exact: oppr_itv. Qed.
+
+Lemma oppr_itvcc (a b x : R) : (-x \in `[a, b]) = (x \in `[(-b), (-a)]).
+Proof. exact: oppr_itv. Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:616]:
```suggestion
Lemma mem0_itvcc_xNx x : (0 \in `[- x, x]) = (0 <= x).
Proof. by rewrite itv_boundlr [in LHS]/<=%O /= oppr_le0 andbb. Qed.

Lemma mem0_itvoo_xNx x : 0 \in `](- x), x[ = (0 < x).
Proof. by rewrite itv_boundlr [in LHS]/<=%O /= oppr_lt0 andbb. Qed.

Lemma oppr_itv ba bb (xa xb x : R) :
  (-x \in Interval (BSide ba xa) (BSide bb xb)) =
  (x \in Interval (BSide (~~ bb) (- xb)) (BSide (~~ ba) (- xa))).
Proof.
by rewrite !itv_boundlr /<=%O /= !implybF negbK andbC lteif_oppl lteif_oppr.
Qed.

Lemma oppr_itvoo (a b x : R) : (- x \in `]a, b[) = (x \in `](- b), (- a)[).
Proof. exact: oppr_itv. Qed.

Lemma oppr_itvco (a b x : R) : (- x \in `[a, b[) = (x \in `](- b), (- a)]).
Proof. exact: oppr_itv. Qed.

Lemma oppr_itvoc (a b x : R) : (- x \in `]a, b]) = (x \in `[(- b), (- a)[).
Proof. exact: oppr_itv. Qed.

Lemma oppr_itvcc (a b x : R) : (- x \in `[a, b]) = (x \in `[(- b), (- a)]).
Proof. exact: oppr_itv. Qed.
```

File: mathcomp/algebra/interval.v [hunk 20]
```diff
@@ -4,225 +4,808 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
+Lemma bound_lexx x c1 c2 : (BSide c1 x <= BSide c2 x) = (c2 ==> c1).
+Proof. by rewrite /<=%O /= lteifxx. Qed.
+
+Lemma bound_ltxx x c1 c2 : (BSide c1 x < BSide c2 x) = (c1 && ~~ c2).
+Proof. by rewrite /<%O /= lteifxx. Qed.
+
+Lemma bound_ltLb x b : (BLeft x < b) = (BRight x <= b). Proof. by []. Qed.
+
+Lemma bound_ltbR x b : (b < BRight x) = (b <= BLeft x).
+Proof. by case: b => [[]|]. Qed.
```
Comment (CohenCyril) [inline mathcomp/algebra/interval.v:223]: I'm not fond of reusing suffix `b` for `bound`, maybe we can use `d`. 
Or maybe if this is the only occurence, we can name thiese lemmas `gt_BLeft` and `lt_BRight`?

**Comment by pi8027** [comment]
I removed `bound_ltLb`, `bound_ltbR`, `ltr_in_itv`, `ler_in_itv`, and `itv_gte` for now, added `in_itv`, and confirmed that it is not so hard to port real-closed (see math-comp/real-closed#28). (I prefer to discuss addition of more lemmas separately if needed.)

File: mathcomp/algebra/interval.v [hunk 21]
```diff
@@ -4,225 +4,805 @@ From mathcomp Require Import ssreflect ssrfun ssrbool eqtype ssrnat seq choice.
...
 Unset Printing Implicit Defensive.
 
+Local Open Scope order_scope.
+Import Order.TTheory.
+
+Variant itv_bound (T : Type) : Type := BSide of bool & T | BInfty of bool.
+Notation BLeft := (BSide true).
+Notation BRight := (BSide false).
+Notation "'-oo'" := (BInfty _ false) (at level 0) : order_scope.
+Notation "'+oo'" := (BInfty _ true) (at level 0) : order_scope.
```
Comment (pi8027) [inline mathcomp/algebra/interval.v:52]: Should these boolean values also be opposite?

Comment (pi8027) [reply mathcomp/algebra/interval.v:52]: According to the previous comments, it seems so. Let me do that.

**Comment by pi8027** [comment]
Done.

**Review by CohenCyril — APPROVED** [review]
LGTM! Great work!

**Comment by pi8027** [comment]
I fixed a few glitches in CHANGELOG and header documentation. It may worth to double-check.

File: CHANGELOG_UNRELEASED.md [hunk 22]
```diff
@@ -162,10 +179,68 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+  + Many definitions and lemmas on intervals such as the membership test are
+    generalized from numeric domains to ordered types.
+  + Interval bounds `itv_bound : Type -> Type` are redefined with two
+    constructors `BSide : bool -> T -> itv_bound T` and
+    `BInfty : bool -> itv_bound T`. `BSide false x` and `BSide true x`
+    respectively mean open and close bounds as left bounds, and their meanings
+    as right bounds are opposite. New notations `BLeft` and `BRight` are aliases
+    for `BSide true` and `BSide false` respectively. `BInfty false` and
+    `BInfty true` respectively means positive and negative infinity. This
+    change gives us the canonical "left to right" ordering of interval bounds.
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:195]:
```suggestion
  + Interval bounds `itv_bound : Type -> Type` are redefined with two constructors
    `BSide : bool -> T -> itv_bound T` and `BInfty : bool -> itv_bound T`.
    New notations `BLeft` and `BRight` are aliases for `BSide true` and `BSide false` respectively. 
    `BInfty false` and `BInfty true` respectively means positive and negative infinity.
    `BLeft x` and `BRight x` respectively mean close and open bounds as left bounds,
    and they respectively mean open and close bounds as right bounds.
    This change gives us the canonical "left to right" ordering of interval bounds.
```

File: CHANGELOG_UNRELEASED.md [hunk 23]
```diff
@@ -162,10 +179,68 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+- in `interval.v`, we deprecate and rename the following:
+  + `lersif_in_itv` -> `lteif_in_itv`
+  + `itv_gte` -> `itv_ge`
+  + `l(t|e)r_in_itv` -> `lt_in_itv`
+  + `itv_intersection` -> `Order.meet`
+  + `itv_intersection1i` -> `meet1x`
+  + `itv_intersectioni1` -> `meetx1`
+  + `itv_intersectionii` -> `meetxx`
+  + `itv_intersectionC` -> `meetC`
+  + `itv_intersectionA` -> `meetA`
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:241]:
```suggestion
  + `itv_intersection` (removed, use `Order.meet` instead)
  + `itv_intersection1i` (removed, use `meet1x` instead)
  + `itv_intersectioni1` (removed, use `meetx1` instead)
  + `itv_intersectionii` (removed, use `meetxx` instead)
  + `itv_intersectionC` (removed, use `meetC` instead)
  + `itv_intersectionA` (removed, use `meetA` instead)
```

File: CHANGELOG_UNRELEASED.md [hunk 24]
```diff
@@ -162,10 +179,68 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+  + `lersif_sub_add(l|r)` -> `lteif_sub_add(l|r)`
+  + `lersif_(p|n)mul2(l|r)` -> `lteif_(p|n)mul2(l|r)`
+  + `real_lersifN` -> `real_lteifNE`
+  + `real_lersif_norm(l|r)` -> `real_lteif_norm(l|r)`
+  + `lersif_nnormr` -> `lteif_nnormr`
+  + `lersif_norm(l|r)` -> `lteif_norm(l|r)`
+  + `lersif_distl` -> `lteif_distl`
+  + `lersif_(p|n)div(l|r)_mul(l|r)` -> `lteif_(p|n)div(l|r)_mul(l|r)`
+
+- in `interval.v`, we deprecate and rename the following:
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:232]:
```suggestion
- in `interval.v`, we deprecate and replace the following:
```

File: CHANGELOG_UNRELEASED.md (hunk 23 above)
Comment (pi8027) [reply CHANGELOG_UNRELEASED.md:240]: We have deprecation for them and they have not been removed yet.

Comment (CohenCyril) [reply CHANGELOG_UNRELEASED.md:240]: `s/removed/deprecated/` then, I just wanted to outline the fact they were subsumed by generic lemmas

Comment (pi8027) [reply CHANGELOG_UNRELEASED.md:240]: So I would rather say:
```

- in `interval.v`, we deprecate the following:
  + `itv_intersection` (use `Order.meet` instead)
  + `itv_intersection1i` (use `meet1x` instead)
  + `itv_intersectioni1` (use `meetx1` instead)
  + `itv_intersectionii` (use `meetxx` instead)
  + `itv_intersectionC` (use `meetC` instead)
  + `itv_intersectionA` (use `meetA` instead)
```

**Comment by CohenCyril** [comment]
I think we are close to a merge! Can you rebase?

**Comment by pi8027** [comment]
> I think we are close to a merge! Can you rebase?

Done.

File: CHANGELOG_UNRELEASED.md [hunk 25]
```diff
@@ -164,10 +181,68 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+  + `le_bound(l|r)_bb` (use `bound_lexx` instead)
+  + `le_bound(l|r)_total` (use `le_total` instead)
+
+- in `interval.v`, we deprecate the following:
+  + `itv_intersection` (use `Order.meet` instead)
+  + `itv_intersection1i` (use `meet1x` instead)
+  + `itv_intersectioni1` (use `meetx1` instead)
+  + `itv_intersectionii` (use `meetxx` instead)
+  + `itv_intersectionC` (use `meetC` instead)
+  + `itv_intersectionA` (use `meetA` instead)
```
Comment (pi8027) [inline CHANGELOG_UNRELEASED.md:216]: They should be placed in the "Removed" section.
